US05166170
2-(2-Amino-5-methoxyphenyl)-2,3-dihydro-1H-indole
To a solution of 1.8 g 2-(2-amino-5-methoxyphenyl)-1H-indole in 60 ml acetic acid at 15° was added 1.8 g NaCNBH3 and this mixture was stirred at room temperature overnight and thereafter poured into excess 50% NaOH in ice. Extraction with CH2Cl2, drying (MgSO4), concentration and flash chromatography using 1% EtOAc/CH2Cl2 as an eluent gave 0.23 g solid, m.p. 120°-123° C.

reactant | 2-(2-amino-5-methoxyphenyl)-1H-indole | 1.8 g | NC1=C(C=C(C=C1)OC)C=1NC2=CC=CC=C2C1 | C15H14N2O
reactant | NaCNBH3 | 1.8 g | [BH3-]C#N.[Na+]
reactant | NaOH | [OH-].[Na+]
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | 2-(2-Amino-5-methoxyphenyl)-2,3-dihydro-1H-indole | 0.23 g | NC1=C(C=C(C=C1)OC)C1NC2=CC=CC=C2C1 | C15H16N2O
